US04421846
(i) Synthesis of N-octylethylenediamine
50 g (0.83 mol) of anhydrous ethylenediamine, 31.2 g (0.21 mol) of octyl chloride and 400 ml of ethanol were mixed and refluxed 6 hours under heating. After evaporation of ethanol under reduced pressure, the lower layer was removed and 200 ml of benzene and 100 ml of water were added to the upper layer for full rinsing. The benzene fraction was dried over anhydrous sodium sulfate, concentrated and then cooled to precipitate crystals. After filtering, crystals were redissolved into 200 ml of benzene and the solution was fully rinsed with water. After being dried over anhydrous sodium sulfate, the benzene solution was concentrated and cooled to precipitate crystals. After filtration, crystals were washed with a small volume of methanol.

reactant | ethylenediamine | 0.83 mol, 50 g | C(CN)N | C2H8N2
reactant | octyl chloride | 0.21 mol, 31.2 g | C(CCCCCCC)Cl | C8H17Cl
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | N-octylethylenediamine | C(CCCCCCC)NCCN | C10H24N2
